US07001897B2
Subsequently, to a solution of p-nitrobenzyl (1R,5S,6S)-2-[1-(4-carboxy-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylate (1.71 g, 2.53 mmol) and 3-t-butyldiphenylsilyloxyazetidine (947 mg, 3.04 mmol) (obtained as described above) in dimethylformamide (86 ml) were added diethylphosphoryl cyanide (461 μl, 3.04 mmol) and triethylamine (426 μl, 3.04 mmol) in an ice bath under an atmosphere of nitrogen. The mixture was stirred at room temperature for 5.5 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The obtained organic layer was washed successively with 0.5M aqueous hydrochloric acid solution, saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using toluene:acetonitrile (4:1) as the eluant to afford p-nitrobenzyl (1R,5S,6S)-2-{1-[4-(3-t-butyldiphenylsilyloxyazetidine-1-carbonyl)-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylate (789 mg, yield 32%).

reactant | p-nitrobenzyl (1R,5S,6S)-2-[1-(4-carboxy-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 2.53 mmol, 1.71 g | C(=O)(O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C | C30H38N4O8S2Si
reactant | 3-t-butyldiphenylsilyloxyazetidine | 3.04 mmol, 947 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CNC1 | C19H25NOSi
reactant | diethylphosphoryl cyanide | 3.04 mmol, 461 μl | C(C)P(=O)(CC)C#N | C5H10NOP
reactant | triethylamine | 3.04 mmol, 426 μl | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 86 ml | CN(C=O)C | C3H7NO
product | p-nitrobenzyl (1R,5S,6S)-2-{1-[4-(3-t-butyldiphenylsilyloxyazetidine-1-carbonyl)-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 789 mg, yield 32% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C | C49H61N5O8S2Si2
